US04416884
18.5 g of 8-benzenesulfonyloxy-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 12.9 g of piperazine were added to 200 ml of anhydrous dimethyl sulfoxide and the mixture was heated in an autoclave under flow of nitrogen at 10 atm. at a temperature of 160° to 170° C. for 20 hours while stirring. Treatment in the same manner as in Example 15 gave 1.5 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white needles having a melting point of 267° to 268° C.

reactant | 8-benzenesulfonyloxy-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 18.5 g | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C19H15NO6S
reactant | piperazine | 12.9 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.5 g | N1(CCNCC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C17H19N3O3
